US05382592
5-(1,2-Dioxo-4-methyl-3-cyclobuten-3-yl)aminomethyl-3-(3-methanesulfonyloxypropyl)indole (9)
To a solution of 5-(1,2-dioxo-4-methyl-3-cyclobuten-3-yl)aminomethyl-3-(3-hydroxypropyl)indole (0.48 g, 0.0016 mol) in 45 mL of dichloromethane-THF (4:1) , cooled at -20° C. under Ar, was added triethylamine (0.28 mL, 0.002 mol) followed by methanesulfonyl chloride (0.16 mL, 0.002 mol) . The resulting solution was stirred at -20° C. for 1.5 h and then it was washed (brine), dried (Na2SO4) and evaporated to give a brown gum. This material was chromatographed (SiO2 /ethyl acetate) to give the title compound (0.50 g, 83%) as a beige foam: IR (neat) 3320 (br), 1785, 1727, 1600 (br), 1350 (br) cm-1 ; 1H NMR (DMSO-d6, 200 MHz) δ10.86 (s, 1H), 9.45 (m, 0.5H), 9.21 (m, 0.5H), 7.48 (s, 1H), 7.33 (d, J=8.3 Hz, 1H), 7.17 (s, 1H), 7.03 (d, J=8.3 Hz, 1H), 4.78 (d, J=5.9 Hz, 1.2H), 4.62 (d, J=6.0 Hz, 0.8H), 4.23 (m, 2H), 3.80 (s, 3H), 3.06 (m, 2H), 2.76 (m, 2H), 2.14 (s, 1.2H), 2.05 (s, 1.8H).

reactant | 5-(1,2-dioxo-4-methyl-3-cyclobuten-3-yl)aminomethyl-3-(3-hydroxypropyl)indole | 0.0016 mol, 0.48 g | O=C1C(C(=C1C)NCC=1C=C2C(=CNC2=CC1)CCCO)=O | C17H18N2O3
reactant | triethylamine | 0.002 mol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.002 mol, 0.16 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane THF | 45 mL | ClCCl.C1CCOC1
product | 5-(1,2-Dioxo-4-methyl-3-cyclobuten-3-yl)aminomethyl-3-(3-methanesulfonyloxypropyl)indole | 0.50 g, 83% | O=C1C(C(=C1C)NCC=1C=C2C(=CNC2=CC1)CCCOS(=O)(=O)C)=O | C18H20N2O5S
